US05391705
STEP B: N,N'-[1-(Trifluoroacetyl)-1,4-butanediyl]bis(benzamide), hydrate,
A mixture of the ornithuric acid, as described in Step A, (501.5 g, 1.47 mol) and trifluoroacetic acid (TFAA) (400 ml) was stirred at room temperature for one hour. The resulting solution was evaporated (0.1 Torr) and 1 L of TFAA was added. The solution was stirred for 16 hours and evaporated to dryness (0.01 Torr). Further 1 L of TFAA was added and the solution stirred for 4hours. Reevaporation of the solution to dryness (0.1 Torr) was followed by addition of further 500 ml of TFAA. The solution was stirred for another 16 hours and evaporated to dryness (0.1 Torr). The oily residue was dissolved in 1.6 L of anhydrous THF and freshly dehydrated oxalic acid (440 g) added to the solution over a period of two hours. Stirring of the mixture was continued for 16 hours, when 7.5 L of ethyl acetate was added. The solution was washed with brine, aqueous sodium bicarbonate (4×), and brine, dried over MgSO4 and evaporated to dryness. Yield of the title compound: 522.8 g (90.5%). Rf =0.33 and 0.27 (eluent: ethyl acetate/petroleum ether 1:1), ketone and its hydrate.

reactant | ornithuric acid | C1=CC=C(C=C1)C(=O)NCCC[C@@H](C(=O)O)NC(=O)C2=CC=CC=C2 | C19H20N2O4
reactant | trifluoroacetic acid | 400 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N,N'-[1-(Trifluoroacetyl)-1,4-butanediyl]bis(benzamide), hydrate | O.FC(C(=O)C(CCCNC(C1=CC=CC=C1)=O)NC(C1=CC=CC=C1)=O)(F)F | InChI=1S/C20H19F3N2O3.H2O/c21-20(22,23)17(26)16(25-19(28)15-10-5-2-6-11-15)12-7-13-24-18(27)14-8-3-1-4-9-14;/h1-6,8-11,16H,7,12-13H2,(H,24,27)(H,25,28);1H2
